US09284278B2
2,2,2-Trifluoro-N-thiazol-2-yl-acetamide
Into a 250 ml three-necked flask equipped with magnetic stirrer, thermometer, dropping funnel and nitrogen inlet, 5.0 g (49.9 mmol) of 2-aminothiazol and 14.3 g (99.85 mmol) of ethyltrifluoroacetate in 100 ml of tetrahydrofuran are introduced. A solution of 14.4 g (124.8 mmol) of potassium-t-butylate in 50 ml of tetrahydrofuran is added dropwise within 15 minutes to the stirred brown solution, whose internal temperature is kept in the range 20-25° C. using an ice bath. Stirring is continued for another 75 minutes, then 300 ml of a buffer solution is added and pH 7 is adjusted by addition of 2N aq. HCl. Extraction with 300 ml of ethyl acetate is carried through 3 times, the combined organic phases are washed with 250 250 ml of water, dried over MgSO4, and filtered. After evaporating the solvent, the crude product is recrystallized from 2-propanol, yielding 2.26 g of the title product.

reactant | 2-aminothiazol | 49.9 mmol, 5.0 g | NC=1SC=CN1 | C3H4N2S
reactant | ethyltrifluoroacetate | 99.85 mmol, 14.3 g | C(C)OC(C(F)(F)F)=O | C4H5F3O2
reactant | HCl | 2N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trifluoro-N-thiazol-2-yl-acetamide | 2.26 g | FC(C(=O)NC=1SC=CN1)(F)F | C5H3F3N2OS
